US05081145
3-Methyl-4-[1-p-chlorobenzyl-5-fluoro-3-methylindol-2-yl]butanoic acid
Following the method of Example 2, but using 1-[(4-chlorophenyl)methyl]-1-(4-fluorophenyl)hydrazine hydrochloride and 3-methyl-4-oxoheptanoic acid as the starting materials and isopropanol as the solvent, the title compound was prepared.

reactant | 1-[(4-chlorophenyl)methyl]-1-(4-fluorophenyl)hydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)CN(N)C1=CC=C(C=C1)F
reactant | 3-methyl-4-oxoheptanoic acid | CC(CC(=O)O)C(CCC)=O | C8H14O3
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-Methyl-4-[1-p-chlorobenzyl-5-fluoro-3-methylindol-2-yl]butanoic acid | CC(CC(=O)O)CC=1N(C2=CC=C(C=C2C1C)F)CC1=CC=C(C=C1)Cl | C21H21ClFNO2
